US04507498
A solution of 2.617 g (0.0044 mole) of [4-acetyl-3-[4-[4-(4-acetyl-3-hydroxy-2-propylphenoxy)butoxy]butoxy]-2-propylphenoxy]acetic acid ethyl ester in 50 ml of methanol and 21.8 ml of 1.0N sodium hydroxide was stirred at reflux for 2 hours. Most of the solvent was removed in vacuo and the pH of the residue was adjusted to 2.0. The product was extracted with methylene chloride and the dried (magnesium sulfate) extract was concentrated in vacuo. The residue was crystallized from ether-hexane to give 2.05 g (82% yield) of [4-acetyl-3-[4-[4-(4-acetyl-3-hydroxy-2-propylphenoxy)butoxy]butoxy]-2-propylphenoxy]acetic acid, melting point 68°-71°.

reactant | [4-acetyl-3-[4-[4-(4-acetyl-3-hydroxy-2-propylphenoxy)butoxy]butoxy]-2-propylphenoxy]acetic acid ethyl ester | 0.0044 mole, 2.617 g | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)OCCCCOCCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C34H48O9
solvent | methanol | 50 ml | CO | CH4O
solvent | sodium hydroxide | 1.0N, 21.8 ml | [OH-].[Na+]
product | [4-acetyl-3-[4-[4-(4-acetyl-3-hydroxy-2-propylphenoxy)butoxy]butoxy]-2-propylphenoxy]acetic acid | 2.05 g, 82% yield | C(C)(=O)C1=C(C(=C(OCC(=O)O)C=C1)CCC)OCCCCOCCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC | C32H44O9
